US09447036B2
2-(3,5-Dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfide (1.00 g, 94% purity, 2.69 mmol) was dissolved in glacial acetic acid (5 mL) and hydrogen peroxide (0.54 mL, 35% in water, 6:19 mml) was added in one portion. The reaction mixture was heated to 50° C. and stirred for three hours at that temperature. After cooling, toluene and water were added and the phases were separated. The aqueous phase was extracted with toluene and the combined organic phases were washed two times with saturated sodium bicarbonate solution and once with sodium metabisulfite solution (30% w/w solution in water). Drying over sodium sulfate, filtration and evaporation yielded 2-(3,5-dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfoxide (950 mg, 94% purity, 91% yield, E/Z=93/7).

reactant | 2-(3,5-Dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfide | 2.69 mmol, 1.00 g | C1(=CC=CC=C1)SC=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C15H9Cl2F3S
reactant | hydrogen peroxide | 0.54 mL | OO | H2O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-(3,5-dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfoxide | 950 mg, 91% yield | C1(=CC=CC=C1)S(=O)C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C15H9Cl2F3OS
